Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Splenic Artery Aneurysm 
 
Major Surgical or Invasive Procedure:
___  Coil embolization of the left gastric as well as 
splenic
artery aneurysm.  Stenting and angioplasty of the left hepatic 
into celiac with iCAST 38 mm x 6 mm stent with proximal flaring 
using a
Charger 120 mm x 9 mm balloon. ___ Perclose ProGlide device 
to right groin.

 
History of Present Illness:
This is a ___ male who presented with an incidentally 
found proximal splenic artery aneurysm.  This measured 
approximately 3 cm and was deemed appropriate for intervention.  
He was therefore taken to the endo suite for
planned coil embolization and stent exclusion of the splenic 
artery.

 
Past Medical History:
PMH: 
-Asthma
-GERD

PSH:
-Laparoscopic right inguinal hernia repair ___, Dr. ___
-Vasectomy

 
Social History:
___
Family History:
FAMILY HISTORY: Breast cancer

 
Physical Exam:
PHYSICAL EXAM:
VS remained stable while in PACU overnight (due to hospital 
census)
Gen: NAD, resting comfortably, AOx3
HEENT: Moist mucous membranes
CV: RRR
Pulm: No respiratory distress
Abd: Soft, ND
GU: voided
Ext: Right groin - flat - dressing dry. Palpable femoral pulse.  
Warm, no edema / palpable DP pulses bilaterally.
 
Pertinent Results:
___ 04:41AM BLOOD WBC-13.3* RBC-5.01 Hgb-14.6 Hct-43.8 
MCV-87 MCH-29.1 MCHC-33.3 RDW-12.9 RDWSD-41.1 Plt ___
___ 04:41AM BLOOD Plt ___
___ 04:41AM BLOOD Glucose-125* UreaN-11 Creat-0.8 Na-141 
K-3.8 Cl-108 HCO3-24 AnGap-9*
___ 04:41AM BLOOD estGFR-Using this
___ 04:41AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.8
___ 04:41AM BLOOD
 
Brief Hospital Course:
Mr. ___ was admitted through SDA for the proposed 
procedure.  He underwent the 
coil embo of splenic outflow & L gastric, covered stent-graft 
into the L hepatic under general anesthesia without 
complication.  

He recovered well - he required minimal pain control.  Diet and 
activity were advanced.  His VS and puncture site to the right 
groin all remained stable.  He tolerated PO and had no 
difficulty voiding.  

He underwent post procedural CTA which was stable as well.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN SOB/WHEEZING 
2. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4-6H PRN SOB/ WHEEZING 
3. Fluticasone Propionate NASAL 1 SPRY NU PRN CONGESTION 
4. Viagra (sildenafil) 50-100 MG oral PRN 
5. Omeprazole 20 mg PO DAILY 
6. Zolpidem Tartrate 5 mg PO QHS PRN INSOMNIA  
7. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth q8 hours Disp #*120 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel [Plavix] 75 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*3 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
do not drive or operate heavy machinery / do not drink alcohol 
on this medication  
5.  Pantoprazole 20 mg PO Q24H 
RX *pantoprazole 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
6.  Atorvastatin 20 mg PO QPM  
7.  Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN SOB/WHEEZING 
 
8.  Fluticasone Propionate NASAL 1 SPRY NU PRN CONGESTION  
9.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4-6H PRN SOB/ WHEEZING  
10.  Viagra (sildenafil) 50-100 MG oral PRN  
11.  Zolpidem Tartrate 5 mg PO QHS PRN INSOMNIA   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
SPLENIC ARTERY ANEURYSM 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
peripheral angiogram.   To do the test, a small puncture was 
made in one of your arteries.  The puncture site heals on its 
own: there are no stitches to remove.   You tolerated the 
procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.
Peripheral Angiography
Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Activity 
For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.
Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  
For  Problems or Questions:
Call ___ in an emergency such as:
•Sudden, brisk bleeding or swelling at the groin puncture site 
that does not stop after applying pressure for ___ minutes
•Bleeding that is associated with nausea, weakness, or 
fainting.
Call the vascular surgery office (___) right away if 
you have any of the following. (Please note that someone is 
available 24 hours a day, 7 days a week)
•Swelling, bleeding, drainage, or discomfort at the puncture 
site that is new or increasing since discharge from the hospital
•Any change in sensation or temperature in your legs
•Fever of 101 or greater
•Any questions or concerns about recovery from your angiogram 

 
Followup Instructions:
___